US06660744B1
A mixture of cis-2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzonitrile (0.111 g, 0.218 mmol, 1 equiv), 25% aqueous sodium hydroxide (1 mL), and 30% H2O2 (1 mL) in dioxane (1 mL) was heated at 100° C. for 16 h. An additional portion of 30% H2O2 (1 mL) was added and the reaction mixture was heated at 100° C. for 2 h. The reaction mixture was allowed to cool to ambient temperature and diluted with CH2Cl2 (15 mL). The organic portion was separated and the solvents were removed under reduced pressure to afford a pale yellow solid which was purified by preparative RP-HPLC (Rainin C18, 8 μm, 300 Å, 25 cm; 10%-60% acetonitrile-0.1M ammonium acetate over 20 min, 21 mL/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyopholyzed to afford cis-2-(3-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzamide triacetate salt as an off-white solid (0.020 g, 0.038 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 8.23 (1H, s), 7.75 (1H, d, J=7.7 Hz), 7.64 (3H, d, J=6.7 Hz), 7.56 (1H, s), 7.48 (1H, t, J=7.5 Hz), 7.27 (1H, t, J=7.4 Hz), 7.19 (2H, d, J=8.6 Hz), 7.06 (1H, d, J=7.7 Hz), 4.76-4.82 (1H, m), 2.20-2.50 (1 1H, m), 2.14 (3H, s), 2.04-2.08 (2H, m), 1.89 (9H, s), 1.58-1.70 (4H, m); RP-HPLC (Delta Pak C18, 5 μm, 300 Å, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 10.79 min. MS: MH+ 527.

reactant | cis-2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzonitrile | 0.218 mmol, 0.111 g, 1 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(OC1=C(C#N)C=CC=C1)C=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C29H32N8O
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
reactant | H2O2 | 1 mL | OO | H2O2
reactant | H2O2 | 1 mL | OO | H2O2
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | cis-2-(3-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzamide triacetate salt | 0.038 mmol, 0.020 g | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C=2C=C(OC1=C(C(=O)N)C=CC=C1)C=CC2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | InChI=1S/C29H34N8O2.3C2H4O2/c1-35-13-15-36(16-14-35)20-9-11-21(12-10-20)37-29-25(27(30)32-18-33-29)26(34-37)19-5-4-6-22(17-19)39-24-8-3-2-7-23(24)28(31)38;3*1-2(3)4/h2-8,17-18,20-21H,9-16H2,1H3,(H2,31,38)(H2,30,32,33);3*1H3,(H,3,4)/t20-,21+;;;
